US08022223B2
Step B: 5-chloro-3-phenoxypyridin-2-amine:
3-Bromo-5-chloropyridin-2-amine (50.0 g, 241 mmol), phenol (45.4 g, 482 mmol), copper(I)oxide (1.72 g, 12.1 mmol), (E)-2-hydroxybenzaldehyde oxime (6.61 g, 48.2 mmol), Cs2CO3 (157 g, 482 mmol), and 3A powdered molecular (72.3 g) sieves were placed in DMF (300 mL) and heated at 110° C. for 3 days. Reaction was cooled, then filtered through celite. Reaction was then partitioned between water and ether. An emulsion was formed and was filtered through a plug of celite. Water was extracted with ether then dried, filtered, and concentrated. Crude material was purified on a first silica gel chromatography (5-10% EtOAc in hexanes), and then on a second column to provide the title compound (8.00 g, 15.0% yield). 1H NMR (CDCl3) δ 7.80 (d, 1H), 7.39 (t, 2H), 7.19 (t, 1H), 7.03 (d, 2H), 6.94 (d, 1H), 4.76 (bs, 2H); Mass spectrum (apci) m/z=221 (100).

reactant | 3-Bromo-5-chloropyridin-2-amine | 241 mmol, 50.0 g | BrC=1C(=NC=C(C1)Cl)N | C5H4BrClN2
reactant | phenol | 482 mmol, 45.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | (E)-2-hydroxybenzaldehyde oxime | 48.2 mmol, 6.61 g | OC1=C(/C=N/O)C=CC=C1 | C7H7NO2
reactant | Cs2CO3 | 482 mmol, 157 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | copper(I)oxide | 12.1 mmol, 1.72 g | [Cu-]=O
product | 5-chloro-3-phenoxypyridin-2-amine | 8.00 g, 15.0% yield | ClC=1C=C(C(=NC1)N)OC1=CC=CC=C1 | C11H9ClN2O
